US07700655B2
(2) 5-Chloro-2-hydroxy-N-[4-(2,3,4,5,6-pentafluorophenyl)thiazol-2-yl]benzamide (Compound No. 551)
Using 5-chlorosalicylic acid and 2-amino-4-(2,3,4,5,6-pentafluorophenyl)-thiazole as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-amino-4-(2,3,4,5,6-pentafluorophenyl)-thiazole | NC=1SC=C(N1)C1=C(C(=C(C(=C1F)F)F)F)F | C9H3F5N2S
product | 5-Chloro-2-hydroxy-N-[4-(2,3,4,5,6-pentafluorophenyl)thiazol-2-yl]benzamide | Yield: 23.8% | ClC=1C=CC(=C(C(=O)NC=2SC=C(N2)C2=C(C(=C(C(=C2F)F)F)F)F)C1)O | C16H6ClF5N2O2S
